US07022725B2
A mixture of methyl 4-aminobenzoate (0.46 g), 3-(5-phenyl-4-isoxazolyl)propionic acid (0.60 g), 1-hydroxy-1H-1,2,3-benzotriazole hydrate (0.48 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.61 g) and N,N-dimethylformamide (15 ml) was stirred at room temperature overnight. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with dilute hydrochloric acid, saturated aqueous sodium hydrogencarbonate and then saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and N-(4-methoxycarbonylphenyl)-3-(5-phenyl-4-isoxazolyl)propionamide (0.86 g, yield 89%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 111–112° C.

reactant | methyl 4-aminobenzoate | 0.46 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 3-(5-phenyl-4-isoxazolyl)propionic acid | 0.60 g | C1(=CC=CC=C1)C1=C(C=NO1)CCC(=O)O | C12H11NO3
reactant | 1-hydroxy-1H-1,2,3-benzotriazole hydrate | 0.48 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.61 g | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(4-methoxycarbonylphenyl)-3-(5-phenyl-4-isoxazolyl)propionamide | 0.86 g, yield 89% | COC(=O)C1=CC=C(C=C1)NC(CCC=1C=NOC1C1=CC=CC=C1)=O | C20H18N2O4
